US06596719B1
100 mg 4-tert.-butyl-N-[6-chloro-5-(p-tolyl)-4-pyrimidinyl]-benzene sulfonamide was dissolved in 5 ml dry THF. 162 mg of potassium-tert.-butylate and 200 mg of N-(2-hydroxyethyl)-N-methyl-ethanesulfonamide was added and the mixture was heated to reflux for 8 h then cooled to room temperature. Ethyl acetate was added and the precipitated side product was filtered off. The filtrate was concentrated in vacuo. The crude product was purified by column chromatography (silica gel; ethyl acetate) to give 45 mg of 4-tert.-butyl-N-{6-[2-(ethanesulfonyl-methyl-amino)-ethoxy]-5-p-tolyl-pyrimidin-4-yl}-benzenesulfonamide. LC-MS: tR=5.58 min, [M−1]−=545.54.

reactant | 4-tert.-butyl-N-[6-chloro-5-(p-tolyl)-4-pyrimidinyl]-benzene sulfonamide | 100 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)Cl | C21H22ClN3O2S
reactant | N-(2-hydroxyethyl)-N-methyl-ethanesulfonamide | 200 mg | OCCN(S(=O)(=O)CC)C | C5H13NO3S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-tert.-butyl-N-{6-[2-(ethanesulfonyl-methyl-amino)-ethoxy]-5-p-tolyl-pyrimidin-4-yl}-benzenesulfonamide | 45 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)C)OCCN(C)S(=O)(=O)CC | C26H34N4O5S2
